US06090753
Then, 60 g (0.22 mol) of 2-bromo-4-fluoro-5-nitrophenyl isopropyl ether was dissolved in 300 ml of ethyl acetate, to which 1.0 g of 10% palladium-carbon was added, and the hydrogenation was effected under an atmosphere of hydrogen. After completion of the reaction, the palladium-carbon was removed by filtration, and the filtrate was concentrated, which afforded 52 g (0.21 mol) of 4-bromo-2-fluoro-5-isopropoxyaniline.

reactant | 2-bromo-4-fluoro-5-nitrophenyl isopropyl ether | 0.22 mol, 60 g | C(C)(C)OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Br | C9H9BrFNO3
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-carbon | 1.0 g | [C].[Pd]
product | 4-bromo-2-fluoro-5-isopropoxyaniline | 0.21 mol, 52 g | BrC1=CC(=C(N)C=C1OC(C)C)F | C9H11BrFNO
